US08217029B2
133.i) (1-Benzhydryl-azetidin-3-yl)-methyl-amine
To a solution of methanesulfonic acid 1-benzhydryl-azetidin-3-yl ester (commercial, 40 g, 126 mmol) in i-PrOH (440 mL) was added methylamine (41% in water, 320 mL). The mixture was heated in a 1.6 L-Parr reactor for 3.5 h at 75° C. (1.5-2 bar). After cooling to rt the solution was concentrated, diluted with water and extracted with DCM. The combined org. phases were washed with brine, dried over MgSO4 and concentrated. The residue was suspended in TBME (150 mL) and treated with AcOH (7.28 mL, 126 mmol). The mixture was stirred for 1 h at rt and the resulting crystals were filtered, washed with TBME and dried under HV to afford the title intermediate as its AcOH salt (15.07 g, 38%).

reactant | methanesulfonic acid 1-benzhydryl-azetidin-3-yl ester | 126 mmol, 40 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OS(=O)(=O)C | C17H19NO3S
reactant | methylamine | 320 mL | CN | CH5N
reactant | AcOH | 126 mmol, 7.28 mL | CC(=O)O | C2H4O2
solvent | i-PrOH | 440 mL | CC(C)O | C3H8O
product | (1-Benzhydryl-azetidin-3-yl)-methyl-amine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NC | C17H20N2
